US08084448B2
B. 3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}propionic Acid Tert-butyl Ester
A mixture of (E)-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-acrylic acid tert-butyl ester (485 mg, 0.89 mmol) and 5% platinum-on-carbon (50 mg) is stirred under an atmosphere of hydrogen for 5 h. The catalyst is filtered through Celite and solvent removed under reduced pressure to give the title compound.

reactant | (E)-3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-acrylic acid tert-butyl ester | 0.89 mmol, 485 mg | C(C)(C)(C)OC(\C=C\C1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)=O | C27H36N2O6SSi
catalyst | platinum-on-carbon | 50 mg | [Pt] | Pt
product | 3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}propionic Acid Tert-butyl Ester | C(C)(C)(C)OC(CCC1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)=O | C27H38N2O6SSi
